US04146721
8.0 grams 3,3-dibenzoyl-propionic acid-ethyl ester, 5.5 grams o-chlorophenylhydrazine hydrochloride, 2.5 grams sodium acetate and 4.0 grams glacial acetic acid were reacted and the reaction product recovered by a procedure analogous to the method set out in Example 21. 3.7 grams 3,5-diphenyl-1-(o-chlorophenyl)-pyrazol-4-acetic acid, melting at 191°-193° C., were obtained, representing a yield of 37%.

reactant | 3,3-dibenzoyl-propionic acid-ethyl ester | 8.0 grams | C(C)OC(CC(C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)=O | C19H18O4
reactant | o-chlorophenylhydrazine hydrochloride | 5.5 grams | Cl.ClC1=C(C=CC=C1)NN
reactant | sodium acetate | 2.5 grams | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 4.0 grams | C(C)(=O)O | C2H4O2
product | 3,5-diphenyl-1-(o-chlorophenyl)-pyrazol-4-acetic acid | 3.7 grams, yield of 37% | C1(=CC=CC=C1)C1=NN(C(=C1CC(=O)O)C1=CC=CC=C1)C1=C(C=CC=C1)Cl | C23H17ClN2O2
